US05086189
48 ml of n-butanol (525 millimols), 152 ml of alpha-pinene (975 millimols), 1.15 ml of pyridine (14 millimols) and 807 mg of SeO2 (7.3 millimols) are introduced successively into a reactor similar to that of Example 1. The Florentine receiver itself contains 25 ml of n-butanol (273 millimols). After the reaction mixture has been heated to a temperature of 323 K., 10 ml of 84% strength H2O2 (340 millimols) are introduced over a period of 25 minutes. After the reaction has been left to continue for a further 39 minutes, the alpha-pinene oxide formed is determined by gas chromatography: 292 millimols.

reactant | n-butanol | 525 millimols, 48 ml | C(CCC)O | C4H10O
reactant | alpha-pinene | 975 millimols, 152 ml | CC1=CCC2CC1C2(C)C | C10H16
reactant | pyridine | 14 millimols, 1.15 ml | N1=CC=CC=C1 | C5H5N
reactant | n-butanol | 273 millimols, 25 ml | C(CCC)O | C4H10O
reactant | H2O2 | 340 millimols | OO | H2O2
product | alpha-pinene oxide | CC1(C2CC1C3(C(C2)O3)C)C | C10H16O
